US04981664
A method for producing high purity silica and ammonium fluoride from silicon tetrafluoride-containing gas wherein silicon tetrafluoride-containing gas from the acidulation of phosphorus-containing rock is recovered and the liquid entrainment is separated from the gas. The recovered gas is converted to an ammonium fluosilicate solution and is ammoniated to produce high purity silica and ammonium fluoride. The recovered gas can be converted to an ammonium fluosilicate solution either by absorbing the gas directly in a solution of ammonium fluoride or by first absorbing the gas in water to produce fluosilicic acid and then reacting the fluosilicic acid with ammonia or ammonium fluoride. In a second aspect, the invention provides a method of separately recovering high purity silica and ammonium fluoride from an impure aqueous fluosilicic acid solution by reacting the fluosilicic acid solution with ammonia or ammonium fluoride fo a time and at a temperature sufficient to form ammonium fluosilicate solution, recovering solid ammonium fluosilicate from the solution, purifying the solid ammonium fluosilicate by dissolving the solid in high purity water or ammonium fluosilicate solution, recrystallizing solid ammonium fluosilicate, and recovering purified ammonium fluosilicate crystals from the solution, forming an aqueous solution of the purified ammonium fluosilicate crystals and ammoniating the solution for a time and at a temperature sufficient to precipitate silica, and separately recovering high purity silica and ammonium fluoride.

reactant | fluosilicic acid | F.F.F[Si](F)(F)F
reactant | ammonia | N | H3N
reactant | ammonium fluoride | [F-].[NH4+]
product | ammonium fluosilicate | [NH4+].[NH4+].F[Si-2](F)(F)(F)(F)F | InChI=1S/F6Si.2H3N/c1-7(2,3,4,5)6;;/h;2*1H3/q-2;;/p+2
